US08455477B2
tert-butyl 3-({[3-bromo-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridin-4-yl]oxy}methyl)piperidine-1-carboxylate (55.0 mg, 0.112 mmol) was dissolved in dichloromethane (3 ml) at 0° C. Trifluoroacetic acid (1.0 ml) was added and the solution was allowed to stir for 30 minutes. The solution was concentrated to a colorless oil, which was dissolved in 2 ml of methanol and eluted through a bicarbonate resin cartridge (StratoSpheres SPE, PL-HCO3 MP SPE), flushing with 10 mL of methanol. The solution was concentrated and eluted through a second bicarbonate resin cartridge to afford 3-bromo-6-(1-methyl-1H-pyrazol-4-yl)-4-(piperidin-3-ylmethoxy)pyrazolo[1,5-a]pyridine. 1H NMR (500 MHz, DMSO-d6) δ 8.62 (s, 1H); 8.28 (s, 1H); 8.01 (s, 1H); 7.96 (s, 1H); 6.89 (s, 1H); 3.98-4.06 (m, 2H); 3.85 (s, 3H), 3.12-3.16 (m, 1H); 2.84-2.89 (m, 1H); 1.92-2.01 (m, 1H); 1.84-1.90 (m, 1H); 1.58-1.64 (m, 1H); 1.20-1.45 (m, 4H). LRMS (ESI) calculated for C17H2179BrN5O [M+H]+, 390.1; found 390.0.

reactant | tert-butyl 3-({[3-bromo-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridin-4-yl]oxy}methyl)piperidine-1-carboxylate | 0.112 mmol, 55.0 mg | BrC=1C=NN2C1C(=CC(=C2)C=2C=NN(C2)C)OCC2CN(CCC2)C(=O)OC(C)(C)C | C22H28BrN5O3
reactant | Trifluoroacetic acid | 1.0 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 3-bromo-6-(1-methyl-1H-pyrazol-4-yl)-4-(piperidin-3-ylmethoxy)pyrazolo[1,5-a]pyridine | BrC=1C=NN2C1C(=CC(=C2)C=2C=NN(C2)C)OCC2CNCCC2 | C17H20BrN5O
